US08426411B2
tert-Butyl 4-(cyclopropanesulfonamidomethyl)-2-ethylcyclopentanecarboxylate (0.080 g, 0.241 mmol, prepared using K from Preparation #21 and cyclopropylsulfonyl chloride) in TFA (4 mL, 51.9 mmol) was stirred at about 25° C. for about 1 h. The organic solvent was removed under reduced pressure to yield crude 4-(cyclopropanesulfonamidomethyl)-2-ethylcyclopentanecarboxylic acid (0.066 g, 100%): LC/MS (Table 1, Method b) Rt=1.81 min; MS m/z: 276 (M+H)+.

reactant | tert-Butyl 4-(cyclopropanesulfonamidomethyl)-2-ethylcyclopentanecarboxylate | 0.241 mmol, 0.080 g | C1(CC1)S(=O)(=O)NCC1CC(C(C1)C(=O)OC(C)(C)C)CC | C16H29NO4S
reactant | TFA | 51.9 mmol, 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(cyclopropanesulfonamidomethyl)-2-ethylcyclopentanecarboxylic acid | 0.066 g, 100% | C1(CC1)S(=O)(=O)NCC1CC(C(C1)C(=O)O)CC | C12H21NO4S
